* /Users/tatyanagubin/winterg/2016-design-project/subcircuits/0_winterg_assembly.asc
XX1 S0 S1 S2 S3 S4 S5 S6 S7 VDD N001 N002 3_dac_winterg
XX2 0 VDD NC_01 Freq_out NC_02 NC_03 NC_04 2_oscillator_winterg
V0 S0 0 PULSE(0 3 0 1ns 1ns 100ns 0.0 1)
V1 S1 0 PULSE(0 3 100ns 1ns 1ns 100ns 0 1)
V2 S2 0 PULSE(0 3 200ns 1ns 1ns 100ns 0 1)
V3 S3 0 PULSE(0 3 300ns 1ns 1ns 100ns 0 1)
V4 S4 0 PULSE(0 3 400ns 1ns 1ns 100ns 0 1)
V5 S5 0 V
V6 S6 0 V
V7 S7 0 V
VDD VDD 0 3v

* block symbol definitions
.subckt 3_dac_winterg S0 S1 S2 S3 S4 S5 S6 S7 VDD Vout Vg
Iref VDD N009 0.1µA
XM8 N009 N009 0 N010 NFET lg=1.5u,wg=10u
XM0 N001 N009 0 0 NFET lg=1.5u,wg=10u
XM1 N002 N009 0 0 NFET lg=1.5u,wg=10u
XM2 N003 N009 0 0 NFET lg=1.5u,wg=10u
XM3 N004 N009 0 0 NFET lg=1.5u,wg=10u
XM4 N005 N009 0 0 NFET lg=1.5u,wg=10u
XM5 N006 N009 0 0 NFET lg=1.5u,wg=10u
XM6 N007 N009 0 0 NFET lg=1.5u,wg=10u
XM7 N008 N009 0 0 NFET lg=1.5u,wg=10u
XM9 Vout S0 N001 0 NFET lg=1.5u,wg=6u
XM10 Vout S1 N002 0 NFET lg=1.5u,wg=12u
XM11 Vout S2 N003 0 NFET lg=1.5u,wg=18u
XM12 Vout S3 N004 0 NFET lg=1.5u,wg=24u
XM13 Vout S4 N005 0 NFET lg=1.5u,wg=30u
XM14 Vout S5 N006 0 NFET lg=1.5u,wg=36u
XM15 Vout S6 N007 0 NFET lg=1.5u,wg=42u
XM16 Vout S7 N008 0 NFET lg=1.5u,wg=48u
XM17 Vg Vout Vout Vg PFET lg=1.5u,wg=6u
XM18 VDD 0 Vg 0 PFET lg=1.5u,wg=10u
.inc mosfets.sub
.ends 3_dac_winterg

.subckt 2_oscillator_winterg V_current VDD Vin_1 Vout Vout_1 Vout_2 Vout_3
XM1 N001 V_current Vout_1 N001 PFET lg=1.5u,wg=6u
XM2 Vout_1 Vout 0 0 NFET lg=1.5u,wg=10u
XM3 VDD Vout N001 0 PFET lg=1.5u,wg=10u
XM4 N002 V_current Vout_2 N002 PFET lg=1.5u,wg=6u
XM5 Vout_2 Vout_1 0 0 NFET lg=1.5u,wg=10u
XM6 VDD Vout_1 N002 0 PFET lg=1.5u,wg=10u
XM7 N003 V_current Vout_3 N003 PFET lg=1.5u,wg=6u
XM8 Vout_3 Vout_2 0 0 NFET lg=1.5u,wg=10u
XM9 VDD Vout_2 N003 0 PFET lg=1.5u,wg=10u
C1 Vout_1 0 2.5pF Rser=0.01
C2 Vout_2 0 2.5pF Rser=0.01
C3 Vout 0 2.5pF Rser=0.01
XM10 N004 V_current Vout N004 PFET lg=1.5u,wg=6u
XM11 Vout Vout_3 0 0 NFET lg=1.5u,wg=10u
XM12 VDD Vout_3 N004 0 PFET lg=1.5u,wg=10u
C4 Vout_3 0 2.5pF Rser=0.01
.include mosfets.sub
.ends 2_oscillator_winterg

.inc mosfets.sub
.tran 0 500ns
* Test Voltages
* Test Script
* Small test\ncurrent resistor
.backanno
.end
