* /Users/tatyanagubin/winterg/2016-design-project/subcircuits/0_winterg_assembly.asc
XX1 S0 S1 S2 S3 S4 S5 S6 S7 VDD N001 NC_01 3_dac_winterg
XX2 N001 VDD NC_02 Freq_out NC_03 NC_04 NC_05 2_oscillator_winterg params: Wn=6u
V0 S0 0 PULSE(0 3 0 1ns 1ns 100us 0.0 1)
V1 S1 0 PULSE(0 3 100us 1ns 1ns 100us 0 1)
V2 S2 0 PULSE(0 3 200us 1ns 1ns 100us 0 1)
V3 S3 0 PULSE(0 3 300us 1ns 1ns 100us 0 1)
V4 S4 0 PULSE(0 3 400us 1ns 1ns 100us 0 1)
V5 S5 0 V
V6 S6 0 V
V7 S7 0 V
VDD VDD 0 3v

* block symbol definitions
.subckt 3_dac_winterg S0 S1 S2 S3 S4 S5 S6 S7 VDD Vout Vg
Iref VDD N009 1000µA
XM8 N009 N009 0 N010 NFET lg=1.5u,wg=10u
XM0 N001 N009 0 0 NFET lg=1.5u,wg=10u
XM1 N002 N009 0 0 NFET lg=1.5u,wg=10u
XM2 N003 N009 0 0 NFET lg=1.5u,wg=10u
XM3 N004 N009 0 0 NFET lg=1.5u,wg=10u
XM4 N005 N009 0 0 NFET lg=1.5u,wg=10u
XM5 N006 N009 0 0 NFET lg=1.5u,wg=10u
XM6 N007 N009 0 0 NFET lg=1.5u,wg=10u
XM7 N008 N009 0 0 NFET lg=1.5u,wg=10u
XM9 Vout S0 N001 0 NFET lg=1.5u,wg=12u
XM10 Vout S1 N002 0 NFET lg=1.5u,wg=24u
XM11 Vout S2 N003 0 NFET lg=1.5u,wg=36u
XM12 Vout S3 N004 0 NFET lg=1.5u,wg=48u
XM13 Vout S4 N005 0 NFET lg=1.5u,wg=60u
XM14 Vout S5 N006 0 NFET lg=1.5u,wg=72u
XM15 Vout S6 N007 0 NFET lg=1.5u,wg=84u
XM16 Vout S7 N008 0 NFET lg=1.5u,wg=96u
XM17 Vg Vout Vout Vg PFET lg=1.5u,wg=6u
XM18 VDD 0 Vg 0 PFET lg=1.5u,wg=10u
.inc mosfets.sub
.ends 3_dac_winterg

.subckt 2_oscillator_winterg V_current VDD Vin_1 Vout Vout_1 Vout_2 Vout_3
XM1 N003 V_current N001 N003 PFET lg=1.5u,wg=6u
XM2 N001 Vout 0 0 NFET lg=1.5u,wg=10u
XM3 VDD Vout N003 0 PFET lg=1.5u,wg=10u
XM4 N004 V_current N002 N004 PFET lg=1.5u,wg=6u
XM5 N002 N001 0 0 NFET lg=1.5u,wg=10u
XM6 VDD N001 N004 0 PFET lg=1.5u,wg=10u
XM7 N005 V_current N006 N005 PFET lg=1.5u,wg=6u
XM8 N006 N002 0 0 NFET lg=1.5u,wg=10u
XM9 VDD N002 N005 0 PFET lg=1.5u,wg=10u
XM10 N008 V_current N007 N008 PFET lg=1.5u,wg=6u
XM11 N007 N006 0 0 NFET lg=1.5u,wg=10u
XM12 VDD N006 N008 0 PFET lg=1.5u,wg=10u
XM13 N009 V_current Vout N009 PFET lg=1.5u,wg=6u
XM14 Vout N007 0 0 NFET lg=1.5u,wg=10u
XM15 VDD N007 N009 0 PFET lg=1.5u,wg=10u
.include mosfets.sub
.ends 2_oscillator_winterg

.inc mosfets.sub
.tran 0 100us 50us
* Test Voltages
* Test Script
* Small test\ncurrent resistor
.backanno
.end
